US07259266B2
Step 1. Preparation of ethyl 8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The 2-hydroxy-3-methoxybenzaldehyde (3.05 g, 20mmol) was dissolved in DMSO (9 mL). TEA (4.09 g, 40 mmol) and ethyl 4,4,4-trifluorocrotonate (6.93 g, 40 mmol) were added to above solution. The reaction was heated to 70° C. and monitored by TLC and GCMS until done. The reaction was quenched with 10% HCl. The compound was extracted with EtOAc and washed with water and NH4Cl. The organic was dried over MgSO4. After concentrated, the crude compound was purified by flash column with 20% EtOAc in hexane. This ester was of suitable purity to use without further purification.

reactant | 2-hydroxy-3-methoxybenzaldehyde | 20mmol, 3.05 g | OC1=C(C=O)C=CC=C1OC | C8H8O3
reactant | ethyl 4,4,4-trifluorocrotonate | 40 mmol, 6.93 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
solvent | DMSO | 9 mL | CS(=O)C | C2H6OS
product | ethyl 8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | COC=1C=CC=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC | C14H13F3O4
